US07592373B2
4.33.b. (2-chloro-4-nitrophenyl)acetaldehyde
50 mL of 1N hydrochloric acid is added dropwise to a solution of 10 g (30.88 mmol) of [(E)-2-(2-chloro-4-nitrophenyl)vinyl]dimethylamine in 200 mL of ethanol and the reaction mixture is then refluxed for 1 hour. Then the reaction mixture is evaporated down, diluted with water, and twice extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: petroleum ether/ethyl acetate (3:1)). Yield: 4.5 g (73% of theory); C8H6ClNO3 (M=199.59); Rf value: 0.62 (silica gel, petroleum ether/ethyl acetate (1:1)).

reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
reactant | [(E)-2-(2-chloro-4-nitrophenyl)vinyl]dimethylamine | 30.88 mmol, 10 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])/C=C/N(C)C | C10H11ClN2O2
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | (2-chloro-4-nitrophenyl)acetaldehyde | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC=O | C8H6ClNO3
